US04374138
A mixture of 4.08 g (20 mmol) of 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid [J. Pharm. Sci., 11, 1051 (1963)] 2.37 ml (30 mmol) of ethyl isocyanate, 2.8 ml (20 mmol) of triethylamine and 50 ml of dimethylformamide is stirred at room temperature overnight. The solution is evaporated to dryness and the residue is treated with 1 N hydrochloric acid. The solid is filtered to give 4.56 g of 6-[[(ethylamino)carbonyl]-amino]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, mp>320° C.

reactant | 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 20 mmol, 2.37 ml, 4.08 g | NC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O | C10H8N2O3
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-[[(ethylamino)carbonyl]-amino]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 4.56 g | C(C)NC(=O)NC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O | C13H13N3O4
